US04954507
2-TRIFLUOROACETYLAMINOMETHYL PIPERAZINE
To a solution of 3.1 g (6.7 mmol) of 2-trifluoroacetylaminomethyl-1,4-diphenylmethyl piperazine dihydrochloride in 100 ml methanol was added a suspension of 0.5 g palladium on carbon in 2 ml water. The mixture was hydrogenized for 30 mn, the catalyst was filtered off and the solvent was removed, taken up in 10 ml absolute ethanol, evaporated again and crystallized in ether to yield 1.37 g of a white powder (72%) as title compound.

reactant | 2-trifluoroacetylaminomethyl-1,4-diphenylmethyl piperazine dihydrochloride | 6.7 mmol, 3.1 g | Cl.Cl.FC(C(=O)NCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1)(F)F
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | water | 2 ml | O | H2O
product | 2-TRIFLUOROACETYLAMINOMETHYL PIPERAZINE | 1.37 g, 72% | FC(C(=O)NCC1NCCNC1)(F)F | C7H12F3N3O
